US05344830
Step G: (RS)-1-(N,N-Diphenylcarbamoyl)-2-(2-bromoethyl)-4-(N,N-dipentylcarbamoyl)piperazine
A solution of 312 mg (0.61 mmol) of (RS)-1-(N,N-diphenylcarbamoyl)-2-(2-hydroxyethyl)-4-(N,N-dipentylcarbamoyl)piperazine and 362 mL (0.86 mmol) of dibromotriphenylphosphorane in 15 mL of acetonitrile was stirred under nitrogen at 82° C. for 2 hours. The yellow solution was cooled and concentrated in vacuo. Flash chromatography on 35 g of silica gel using 1:1 v/v ethyl acetate/hexane as the eluant afforded 300 mg (85%) of a yellow oil.

reactant | (RS)-1-(N,N-diphenylcarbamoyl)-2-(2-hydroxyethyl)-4-(N,N-dipentylcarbamoyl)piperazine | 0.61 mmol, 312 mg | C1(=CC=CC=C1)N(C(=O)N1C(CN(CC1)C(N(CCCCC)CCCCC)=O)CCO)C1=CC=CC=C1 | C30H44N4O3
reactant | dibromotriphenylphosphorane | 0.86 mmol, 362 mL | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (RS)-1-(N,N-Diphenylcarbamoyl)-2-(2-bromoethyl)-4-(N,N-dipentylcarbamoyl)piperazine | 300 mg, 85% | C1(=CC=CC=C1)N(C(=O)N1C(CN(CC1)C(N(CCCCC)CCCCC)=O)CCBr)C1=CC=CC=C1 | C30H43BrN4O2
